US04752645
(E) 1,3,4,5-Tetrahydro-3-(methoxycarbonyl)-4-(methoxyphenyl)-3-(2-propenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one
Concentrated sulfuric acid (8 ml) and anhydrous lithium bromide (720 mg; 8 mmole) were added to a suspension of 1,3,4,5-tetrahydro-3-(methoxycarbonyl)-1-(methoxymethyl)-4-(methoxyphenyl)-3-(2-propenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one (905 mg; 1.9 mmole) in methanol (40 ml) with stirring. The reaction mixture was heated under reflux (bath temperature=80°-85° C.) for nine hours, and then allowed to stand overnight at room temperature. The acid was carefully neutralized by the addition of saturated sodium bicarbonate solution and extracted with ethyl acetate (three times). The combined organic layers were dried (magnesium sulfate) and concentrated yielding 858 mg of the title compound as a solid.

reactant | sulfuric acid | 8 ml | S(O)(O)(=O)=O | H2O4S
reactant | lithium bromide | 8 mmole, 720 mg | [Br-].[Li+]
reactant | 1,3,4,5-tetrahydro-3-(methoxycarbonyl)-1-(methoxymethyl)-4-(methoxyphenyl)-3-(2-propenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one | 1.9 mmole, 905 mg | COC(=O)C1(C(N(C2=C(CC1C1=C(C=CC=C1)OC)C=C(C=C2)C(F)(F)F)COC)=O)CC=C | C25H26F3NO5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | 1,3,4,5-Tetrahydro-3-(methoxycarbonyl)-4-(methoxyphenyl)-3-(2-propenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one | 858 mg | COC(=O)C1(C(NC2=C(CC1C1=C(C=CC=C1)OC)C=C(C=C2)C(F)(F)F)=O)CC=C | C23H22F3NO4
